US06310107B1
7-(4-Biphenylyl)methoxy-3-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline Hydrochloride
To a solution of 3-(dimethylamino)methyl-1,2,3,4-tetrahydro-7-quinolinol (344 mg), 4-biphenylylmethanol (368 mg), and triphenylphosphine (525 mg) in THF (20 ml) was added diethyl azodicarboxylate (348 mg). After stirring at room temperature for one hr, the reaction mixture was poured into 1 N aqueous hydrochloric acid and washed with ethyl acetate. The water layer was neutralized by 1 N aqueous sodium hydroxide, diluted with saturated aqueous sodium bicarbonate, and extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride, dried, and concentrated. The residue was purified by alumina column chromatography (eluent: ethyl acetate:hexane=1:4) and converted into its hydrochloride, which was further recrystallized from ethanol-diisopropyl ether to obtain the titled compound (214 mg).

reactant | 3-(dimethylamino)methyl-1,2,3,4-tetrahydro-7-quinolinol | 344 mg | CN(C)CC1CNC2=CC(=CC=C2C1)O | C12H18N2O
reactant | 4-biphenylylmethanol | 368 mg | C1(=CC=C(C=C1)CO)C1=CC=CC=C1 | C13H12O
reactant | triphenylphosphine | 525 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 348 mg | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 20 ml | C1CCOC1 | C4H8O
product | 7-(4-Biphenylyl)methoxy-3-(N,N-dimethylamino)methyl-1,2,3,4-tetrahydroquinoline Hydrochloride | 214 mg | Cl.C1(=CC=C(C=C1)COC1=CC=C2CC(CNC2=C1)CN(C)C)C1=CC=CC=C1 | InChI=1S/C25H28N2O.ClH/c1-27(2)17-20-14-23-12-13-24(15-25(23)26-16-20)28-18-19-8-10-22(11-9-19)21-6-4-3-5-7-21;/h3-13,15,20,26H,14,16-18H2,1-2H3;1H
